US06774132B1
Spiro[indoline-3,3′-perhydroazepin]-2-one
N-Benzyl-4-(3-indolyl)-butanamine. Lithium aluminum hydride (4.8 g) was added to a solution of N-benzyl-3-indolebutanamide (18.73 g) in dry THF (200 mL) at nitrogen atmosphere and at 0° C. After stirring at reflux for 15 h and work-up with sodium hydroxide the title compound was obtained as pale yellow crystals (16.4 g).

reactant | N-Benzyl-4-(3-indolyl)-butanamine | C(C1=CC=CC=C1)NCCCCC1=CNC2=CC=CC=C12 | C19H22N2
reactant | Lithium aluminum hydride | 4.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-benzyl-3-indolebutanamide | 18.73 g | C(C1=CC=CC=C1)NC(CCCC1=CNC2=CC=CC=C12)=O | C19H20N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Spiro[indoline-3,3′-perhydroazepin]-2-one | N1CC2(CCCC1)C(NC1=CC=CC=C12)=O | C13H16N2O
